Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Augmentin
 
Attending: ___.
 
Chief Complaint:
aortic stenosis,mitral regurgitation, ascending aortic aneursym
 
Major Surgical or Invasive Procedure:
aortic valve replacement(23mm ___ mechanical),Mitral valve 
repair(32mm ___ ring),replacement of ascending 
aorta(30mm Gelweave) ___

 
History of Present Illness:
This is a ___ year old male with known
aortic stenosis and possible rheumatic heart disease. He is
followed very closely with serial echocardiograms by Dr. ___.
In ___, he was admitted to ___ with congestive
heart failure. Repeat echocardiogram at that time was notable
worsening mitral regurgitation and worsening left ventricular
function with LVEF dropping from 50-55% to approximately 30%.
Given the above findings, he was referred to Dr. ___
cardiac surgical evaluation. Currently his symptoms have
improved, and is able to perform routine ADL without difficulty.
He currently denies shortness of breath, chest pain, syncope,
pre-syncope, orthopnea, PND and pedal edema. He does admit to
decreased energy, easy fatiguability, and poor sleep. He is very
anxious about the possibilty of heart surgery.

 
Past Medical History:
Rheumatic Heart Disease, rheumatic fever at age ___
- Chronic Systolic Congestive Heart Failure
- Aortic Stenosis, Mitral Regurgitation
- History of Endocarditis ___ c/b seizure
- Hypertension
- Asthma(exercise induced)
- History of Kidney Stones
- Chronic Low Back Pain, Lumbar strain
- History of Gilberts Hyperbilirubinemia
Past Surgical History: s/p Tonsillectomy

 
Social History:
___
Family History:
Family History: Denies premature coronary artery disease

 
Physical Exam:
Pulse: Resp:14  O2 sat:98%
B/P  Right:110/70    Left:106/68
Height:72"     Weight:181#

Five Meter Walk Test #1_______ #2 _________  #3_________

General:
Skin: Dry [] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [x] grade ___ bases to
neck______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema [n] _____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:2   Left:2
DP           Right:2   Left:2
___           Right:2   Left:2
Radial       Right:2   Left:2

 
Pertinent Results:
___ 05:35AM BLOOD WBC-6.1# RBC-3.09* Hgb-9.7* Hct-27.8* 
MCV-90 MCH-31.3 MCHC-34.8 RDW-12.7 Plt ___
___ 07:37AM BLOOD WBC-5.7 RBC-4.55* Hgb-14.2 Hct-40.7 
MCV-90 MCH-31.2 MCHC-34.9 RDW-12.5 Plt ___
___ 07:35PM BLOOD ___
___ 04:55AM BLOOD ___ PTT-33.2 ___
___ 04:45AM BLOOD ___ PTT-27.0 ___
___ 02:29AM BLOOD ___
___ 05:35AM BLOOD UreaN-29* Creat-1.0 Na-137 K-4.6 Cl-101
___ 07:37AM BLOOD Glucose-101* UreaN-21* Creat-1.1 Na-141 
K-3.9 Cl-104 HCO3-28 AnGap-13
___ 07:37AM BLOOD ALT-18 AST-15 AlkPhos-35* TotBili-1.7*
PRE-BYPASS: 

The left atrium is moderately dilated. Mild spontaneous echo 
contrast is present in the left atrial appendage. No atrial 
septal defect is seen by 2D or color Doppler. 

Left ventricular wall thicknesses are normal. The left 
ventricular cavity is moderately dilated. Overall left 
ventricular systolic function is severely depressed (LVEF= 25 
%). 

Right ventricular chamber size is normal with mild global free 
wall hypokinesis. 

The ascending aorta is mildly dilated. The descending thoracic 
aorta is mildly dilated. 

The aortic valve is bicuspid. The aortic valve leaflets are 
severely thickened/deformed. There is severe aortic valve 
stenosis (valve area 0.8-1.0cm2). Mild to moderate (___) aortic 
regurgitation is seen. 

The mitral valve leaflets are moderately thickened. Moderate 
(2+) mitral regurgitation is seen. There is no pericardial 
effusion. Dr. ___ was notified in person of the results at 
time of surgery. 

POST-BYPASS:

The patient is A paced. The patient is on norepinephine and 
epinephrine infusions.

Left ventricular function is unchanged, estimated EF is 25%. 
Right ventricular function is mildly improved.

There is a well-seated mechanical prosthetic valve in the aortic 
position. Characteristic washing jets are seen. The leaflets are 
normally mobile. The peak gradient across the aortic valve is 
18mmHg, the mean gradient is 9mmHg with CO of 4L/min.

There is a mitral annuloplasty ring in place. There is a mean 
gradient of 2 mmHg across the mitral valve at a cardiac output 
of 4L/min. No mitral regurgitation is seen.

There is a tube graft in the ascending aortic position. The 
aortic arch and descending aorta are intact post-decannulation.  
 
  

 
Brief Hospital Course:
He was taken to the Operating Room on ___ where surgery was 
performed as noted.  See operative note for details.  He weaned 
from bypass on Epinephrine, Propofol and Levophed.  He remained 
stable, was extubated and over 48 hours weaned from pressors.

He transferred to the floor on POD 2 and Physical Therapy worked 
with him.  Coumadin was begun and Heparin started on POD 3.  He 
was diuresed towards his preoperative weight and Coreg was 
started and titrated as BP allowed. No ACE_I was given as BP was 
too low to allow it.

Mediastinal CTs were removed per protocol, as were pacing wires, 
however, pleural CTs remained in until ___ due to drainage.  At 
discharge he was ambulatory , follow up appointments were 
arranged and Coumadin follow up by Dr. ___ arranged as well. 

 
Medications on Admission:
Lasix 20mg daily, Toprol XL 25mg daily,
Flovent 50mcg 2puffs twice daily, Albuterol MDI prn, Amoxicillin
prn dental prophylaxis

 
Discharge Medications:
1. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
2. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for fever, pain.  
3. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
4. fluticasone 110 mcg/actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
5. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for dyspnea.  

6. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
7. amiodarone 200 mg Tablet Sig: as directed Tablet PO BID (2 
times a day): 400mg(2tablets)twice daily for two weeks, then 
200mg(one tablet) twice daily for two weeks then, 200mg daily 
until directed to stop.
Disp:*120 Tablet(s)* Refills:*2*
8. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain for 4 weeks.
Disp:*50 Tablet(s)* Refills:*0*
9. carvedilol 3.125 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
10. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
for 7 days.
Disp:*7 Tablet(s)* Refills:*0*
11. potassium chloride 20 mEq Tablet, ER Particles/Crystals Sig: 
One (1) Tablet, ER Particles/Crystals PO once a day for 7 days.
Disp:*7 Tablet, ER Particles/Crystals(s)* Refills:*0*
12. Coumadin 2.5 mg Tablet Sig: as directed Tablet PO once a 
day: goal INR 2.5-3.5.
Disp:*100 Tablet(s)* Refills:*2*
13. Outpatient Lab Work
___ on ___ then prn.
Please FAX results to Dr. ___ at ___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
aortic stenosis
mitral regurgitation
ascending aortic aneurysm
Rheumatic Heart Disease
Chronic Systolic Congestive Heart Failure
h/o Endocarditis ___ 
Hypertension
Asthma(exercise induced)
h/o Kidney Stones
Chronic Low Back Pain
Gilberts Hyperbilirubinemia
s/p Tonsillectomy

 
Discharge Condition:
Alert and oriented x3, nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesics 
Incisions: 
Sternal - healing well, no erythema or drainage 
Edema: trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___